US04829081
2-tert.-butyl-4-(4-fluorophenyl)-5-phenyl-fur-3-ylmethanol
Under a dry nitrogen atmosphere, to a slurry of 1.15 g (30.4 mmol) of lithium aluminum hydride in 50 ml of dry ether at about 0° was added 5.56 g (15.2 mmol) of 4-(4-fluorophenyl)-2-tert.-butyl-5-phenyl-3-furyl-carboxylic acid, ethyl ester in 25 ml of dry ether. The mixture was heated at reflux for one-half hour.

reactant | lithium aluminum hydride | 30.4 mmol, 1.15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-fluorophenyl)-2-tert.-butyl-5-phenyl-3-furyl-carboxylic acid, ethyl ester | 15.2 mmol, 5.56 g | FC1=CC=C(C=C1)C=1C(=C(OC1C1=CC=CC=C1)C(C)(C)C)C(=O)OCC | C23H23FO3
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 2-tert.-butyl-4-(4-fluorophenyl)-5-phenyl-fur-3-ylmethanol | C(C)(C)(C)C=1OC(=C(C1CO)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C21H21FO2
